US06043269
(+,-) cis 4-(7-Benzyloxy-3-phenyl-chroman-4-yl)-phenol
(+,-) cis Methanesulfonic acid 4-(7-benzyloxy-3-phenyl-chroman-4-yl)-phenyl ester (35 g, 71.9 mmol) was added to a solution of potassium hydroxide (350 g) in ethanol (2500 ml) and refluxed for 90 min. The reaction mixture was cooled, acetic acid (350 ml) was slowly added, and the resulting mixture was stirred overnight. Water (1.5 l) was added dropwise over 60 min, stirring was continued for 120 min, and the precipitated product was filtered. The precipitate was vacuum dried with sicapent (Merck) at 45° C. for 4 days.

reactant | (+,-) cis Methanesulfonic acid 4-(7-benzyloxy-3-phenyl-chroman-4-yl)-phenyl ester | 71.9 mmol, 35 g | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)C | C29H26O5S
reactant | potassium hydroxide | 350 g | [OH-].[K+]
reactant | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
reactant | Water | 1.5 l | O | H2O
solvent | ethanol | 2500 ml | C(C)O | C2H6O
product | (+,-) cis 4-(7-Benzyloxy-3-phenyl-chroman-4-yl)-phenol | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C28H24O3
